US04146721
6 grams 3,5-dimethyl-1-phenyl-pyrazol-4-acetic acid-methyl-ester and 80 milliliters ammonia solution in methanol were mixed and the mixture heated in an autoclave to 160° C. for 6 hours. The reaction mixture was evaporated to dryness. 4.6 grams 3,5-dimethyl-1-phenyl-pyrazol-4-acetamide, melting at 160°-170° C., were obtained, representing a yield of 81%.

reactant | 3,5-dimethyl-1-phenyl-pyrazol-4-acetic acid-methyl-ester | 6 grams | COC(CC=1C(=NN(C1C)C1=CC=CC=C1)C)=O | C14H16N2O2
reactant | ammonia | 80 milliliters | N | H3N
solvent | methanol | CO | CH4O
product | 3,5-dimethyl-1-phenyl-pyrazol-4-acetamide | 4.6 grams, yield of 81% | CC1=NN(C(=C1CC(=O)N)C)C1=CC=CC=C1 | C13H15N3O
